US07199147B2
To a solution of 4-methyl-5-nitro-1-tetrahydro-2H-pyran-2-yl-1H-indazole (1.06 g, 4.06 mmol) in ethanol (20 ml) were added 10% Pd—C (200 mg) and ammonium formate (1.28 g, 20.3 mmol), and the resulting mixture was heated under reflux for 1 hour. After the solid was removed by filtration using Celite, water, ethyl acetate and a saturated aqueous sodium hydrogencarbonate solution were added to the residue. The resulting mixture was extracted with ethyl acetate, and the extract solution was washed with a saturated aqueous sodium chloride solution, dried over sodium sulfate, and then distilled under reduced pressure to remove the solvent, whereby 4-methyl-1-tetrahydro-2H-pyran-2-yl-1H-indazol-5-amine (955 mg, 100%) was obtained.

reactant | 4-methyl-5-nitro-1-tetrahydro-2H-pyran-2-yl-1H-indazole | 4.06 mmol, 1.06 g | CC1=C2C=NN(C2=CC=C1[N+](=O)[O-])C1OCCCC1 | C13H15N3O3
reactant | ammonium formate | 20.3 mmol, 1.28 g | C(=O)[O-].[NH4+]
solvent | ethanol | 20 ml | C(C)O | C2H6O
catalyst | Pd—C | 200 mg | [Pd] | Pd
product | 4-methyl-1-tetrahydro-2H-pyran-2-yl-1H-indazol-5-amine | 955 mg, 100% | CC1=C2C=NN(C2=CC=C1N)C1OCCCC1 | C13H17N3O
